US04625032
0.88 g of methyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate is dissolved in 10 ml of pyridine. 0.43 ml of acetic anhydride is added to the solution, and the mixture is stirred at room temperature for 13 hours. After the reaction, the mixture is poured into 10% hydrochloric acid and then extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent, whereby 0.95 g of methyl (3S)-3-acetoxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate is obtained as white powder. Yield: 95%

reactant | methyl (3S)-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 0.88 g | OC[C@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SC | C14H16N2OS2
reactant | acetic anhydride | 0.43 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl (3S)-3-acetoxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 0.95 g, Yield: 95% | C(C)(=O)OC[C@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SC | C16H18N2O2S2
